US07829715B2
A 15.00 g portion of (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline and 9.22 g of isopropyl chloroformate were added to a mixture of 75 ml of toluene, 10.43 g of potassium carbonate and 45 ml of water and stirred at 20° C. for 2 hours, and then the organic layer was washed with 50 ml of water. The thus obtained organic layer was concentrated under a reduced pressure and then dried to obtain 21.71 g of (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid propan-2-yl ester (1H-NMR (DMSO-d6, tetramethylsilane internal standard, 80° C.): δ 1.18 (3H, d, J=6.4 Hz), 1.22 (3H, d, J=6.4 Hz), 2.73-2.93 (2H, m), 3.25-3.34 (1H, m), 3.83-3.92 (1H, m), 4.80-4.91 (1H, m), 6.22 (1H, s), 7.06-7.33 (9H, m), mass spectrum: m/z=296 [M +H]+ (FAB)).

reactant | (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline | C1(=CC=CC=C1)[C@@H]1NCCC2=CC=CC=C12 | C15H15N
reactant | isopropyl chloroformate | 9.22 g | ClC(=O)OC(C)C | C4H7ClO2
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium carbonate | 10.43 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 45 ml | O | H2O
product | (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid propan-2-yl ester | 21.71 g | CC(C)OC(=O)N1[C@H](C2=CC=CC=C2CC1)C1=CC=CC=C1 | C19H21NO2
